US05135932
6-[2-[2-[3-(3,4-Dihydro-2-hydroxy-quinolin-5-yloxy)-2-hydroxypropylamino]-ethyl]benzimidazol-5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone
Prepared analogously to Example 1 from 1-(3,4-dihydro-2-hydroxy-quinolin-5-yloxy)-2,3-epoxypropane and 6-[2-(2-aminoethyl)benzimidazol-5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone.

reactant | 1-(3,4-dihydro-2-hydroxy-quinolin-5-yloxy)-2,3-epoxypropane | OC1=NC2=CC=CC(=C2CC1)OCC1CO1 | C12H13NO3
reactant | 6-[2-(2-aminoethyl)benzimidazol-5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | NCCC=1NC2=C(N1)C=CC(=C2)C=2C(CC(NN2)=O)C | C14H17N5O
product | 6-[2-[2-[3-(3,4-Dihydro-2-hydroxy-quinolin-5-yloxy)-2-hydroxypropylamino]-ethyl]benzimidazol-5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | OC1=NC2=CC=CC(=C2CC1)OCC(CNCCC=1NC2=C(N1)C=CC(=C2)C=2C(CC(NN2)=O)C)O | C26H30N6O4
